US05223523
A solution of 1.0 g (6.0 mmol) of (S)-atrolactic acid in 7 mL of methanol was cooled in an ice-water bath and stirred while 0.70 mL (1.15 g, 9.6 mmol) of thionyl chloride was added dropwise. The resulting mixture was stirred at room temperature for one hour, then concentrated under reduced pressure to give 1.1 g of methyl (S)-atrolactate, nD 25 1.5096.

reactant | (S)-atrolactic acid | 6.0 mmol, 1.0 g | C([C@](O)(C)C1=CC=CC=C1)(=O)O | C9H10O3
reactant | thionyl chloride | 9.6 mmol, 0.70 mL, 1.15 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 7 mL | CO | CH4O
product | methyl (S)-atrolactate | 1.1 g | C([C@](O)(C)C1=CC=CC=C1)(=O)OC | C10H12O3
